US04075227
By the procedure of Example 5, 5.0 g. (0.0208 mole) of 3-phenyl-6-methoxybenzothiophene were treated with 3.60 g. (0.021 mole) of o-methoxybenzoyl chloride and 2.80 g. (0.021 mole) of aluminum chloride in 100 ml. of 1,2-dichloroethane as solvent. The crystalline product, 2-(2-methoxybenzoyl)-3-phenyl-6-methoxybenzothiophene (7.52 g.; 97 percent) was obtained from methanol, m.p. 111°-112° C. The product was sufficiently pure to be employed in the next succeeding step; however, a portion of the product was further purified by recrystallization from methanol with the following analytical result.

reactant | 3-phenyl-6-methoxybenzothiophene | 0.0208 mole | C1(=CC=CC=C1)C1=CSC2=C1C=CC(=C2)OC | C15H12OS
reactant | o-methoxybenzoyl chloride | 0.021 mole | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | aluminum chloride | 0.021 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methanol | CO | CH4O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-(2-methoxybenzoyl)-3-phenyl-6-methoxybenzothiophene | 7.52 g, 97 percent | COC1=C(C(=O)C=2SC3=C(C2C2=CC=CC=C2)C=CC(=C3)OC)C=CC=C1 | C23H18O3S
